US08242104B2
2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepin-9-ol (280 mg, 0.87 mmol) was dissolved in N,N-dimethylacetamide (2.3 mL) and treated with N-(5-chloro-2-pyridyl)triflimide (720 mg, 1.8 mmol) and triethylamine (0.61 mL, 4.4 mmol). The mixture was stirred overnight at 60° C. The reaction mixture was diluted with 1N HCl and ethyl acetate. The layers were separated and the aqueous phase was extracted into ethyl acetate (4×). The combined organics were washed with brine (1×), dried over MgSO4, filtered, and absorbed onto celite for purification by flash chromatography [4 g, 0-100% EtOAc in heptane; removes large impurity] followed by a second purification eluting with 0-20% MeOH in DCM to afford 2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepin-9-yl trifluoromethanesulfonate as a dark viscous oil (285 mg, 71%). 1H NMR (400 MHz, DMSO) δ 9.29 (d, J=11.2 Hz, 1H), 7.99 (d, J=6.2 Hz, 1H), 7.36 (s, 1H), 5.82 (hept, J=6.7 Hz, 1H), 4.76-4.68 (m, 4H), 2.26 (s, 3H), 1.45 (t, J=7.8 Hz, 6H)

reactant | 2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepin-9-ol | 0.87 mmol, 280 mg | C(C)(C)N1N=C(N=C1C=1N=C2N(CCOC3=C2C=NC(=C3)O)C1)C | C16H18N6O2
reactant | N-(5-chloro-2-pyridyl)triflimide | 1.8 mmol, 720 mg | ClC=1C=CC(=NC1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C7H3ClF6N2O4S2
reactant | triethylamine | 4.4 mmol, 0.61 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | 2.3 mL | CN(C(C)=O)C | C4H9NO
solvent | HCl | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepin-9-yl trifluoromethanesulfonate | 285 mg, 71% | FC(S(=O)(=O)OC1=CC2=C(C=3N(CCO2)C=C(N3)C3=NC(=NN3C(C)C)C)C=N1)(F)F | C17H17F3N6O4S
